US09102631B2
1-(3-Carboxybenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione
A solution of 1-(3-methoxycarbonylbenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione (2.3 g, 7.3 mmol) and NaOH (0.59 g, 14.7 mmol) in water-methanol (40 mL and 40 mL) was refluxed for 4 h. After the removal of methanol, the solution was adjusted to pH=2-3 by 3N hydrochloric acid (a.q). The mixture was filtered and the solid was washed by water, and dried to give the title compound (1.8 g, 82% yield) as yellow solid. MS: m/z 301.3 [M+H]+.

reactant | 1-(3-methoxycarbonylbenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione | 7.3 mmol, 2.3 g | COC(=O)C=1C=C(CN2C(NC(C=3CCCCC23)=O)=O)C=CC1 | C17H18N2O4
reactant | NaOH | 14.7 mmol, 0.59 g | [OH-].[Na+]
solvent | water methanol | 40 mL | O.CO
product | 1-(3-Carboxybenzyl)-5,6,7,8-tetrahydroquinazoline-2,4(1H,3H)-dione | 1.8 g, 82% yield | C(=O)(O)C=1C=C(CN2C(NC(C=3CCCCC23)=O)=O)C=CC1 | C16H16N2O4
